US05849928
Oxalyl chloride (1.53 g) was added to a stirred solution of 4-pentafluorosulphanylbenzoic acid (0.99 g) in dichloroethane. A solution of N,N-dimethylformamide in dichloromethane (3 ml of a solution prepared by the addition of 2 drops of N,N-dimethylformamide to 10 ml of dichloromethane) was added. After 15 minutes the solution was heated for a further 15 minutes at 45° C., and evaporated to dryness to give 4-pentafluorosulphanylbenzoyl chloride as an orange oil (1.07 g). This was used directly in the subsequent reaction stage.

reactant | Oxalyl chloride | 1.53 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-pentafluorosulphanylbenzoic acid | 0.99 g | FS(C1=CC=C(C(=O)O)C=C1)(F)(F)(F)F | C7H5F5O2S
reactant | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 2 drops | CN(C=O)C | C3H7NO
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 4-pentafluorosulphanylbenzoyl chloride | 1.07 g | FS(C1=CC=C(C(=O)Cl)C=C1)(F)(F)(F)F | C7H4ClF5OS
